US08030438B2
(2) Synthesis of 3,4-bis(diethoxyphosphoryl)-[2,2′]-bithiophene
In THF, 0.600 g (0.930 mmols) of 2-tributylstannyl-3,4-bis(diethoxyphosphoryl)thiophene and 0.1013 g (1.023 mmols) of commercially available copper(I) chloride were dissolved, to which 0.2344 g (1.116 mmols) of 2-iodothiophene was added at room temperature. Thereafter, the reaction mixture was heated and stirred under reflux for 4 hours. After the reaction, the reaction mixture was cooled down to room temperature, to which a potassium fluoride aqueous solution was added, followed by stirring for 2 hours. Subsequently, the resulting solid was removed by celite filtration and the filtrate was extracted with ethyl acetate. The organic phase was washed with a saturated saline solution and dried over anhydrous sodium sulfate. The solvent was removed by distilling off under reduced pressure, and the resulting crude product was purified with a silica gel column (ethyl acetate:methanol=15:1) to obtain the specified substance at a yield of 0.3595 g (yield: 88%).

reactant | 2-tributylstannyl-3,4-bis(diethoxyphosphoryl)thiophene | 0.930 mmols, 0.600 g | C(CCC)[Sn](C=1SC=C(C1P(=O)(OCC)OCC)P(=O)(OCC)OCC)(CCCC)CCCC
reactant | 2-iodothiophene | 1.116 mmols, 0.2344 g | IC=1SC=CC1 | C4H3IS
reactant | potassium fluoride | [F-].[K+]
solvent | THF | C1CCOC1 | C4H8O
catalyst | copper(I) chloride | [Cu]Cl
product | 3,4-bis(diethoxyphosphoryl)-[2,2′]-bithiophene | yield: 88% | C(C)OP(=O)(OCC)C1=C(SC=C1P(=O)(OCC)OCC)C=1SC=CC1 | C16H24O6P2S2
